US08420812B2
1-Methyl-3-(5-phenyl-pent-1-ynyl)-5-trifluoromethyl-1H-pyrazole
This product was prepared from toluene-4-sulfonic acid 1-methyl-5-trifluoromethyl-1H-pyrazol-3-yl ester and pent-4-ynyl-benzene following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/DCM 7:3; yield (86 mg, 60%); 1H NMR δ (CDCl3): 7.31-7.25 (m, 2H), 7.22-7.16 (m, 3H), 6.64 (s, 1H), 3.98 (s, 3H), 2.78 (t, J=7.44 Hz, 2H), 2.42 (t, J=7.04 Hz, 2H), 1.95 (p, J=7.33 Hz, 2H); LCMS m/z: 292.

reactant | toluene-4-sulfonic acid 1-methyl-5-trifluoromethyl-1H-pyrazol-3-yl ester | CN1N=C(C=C1C(F)(F)F)OS(=O)(=O)C1=CC=C(C=C1)C | C12H11F3N2O3S
reactant | pent-4-ynyl-benzene | C(CCC#C)C1=CC=CC=C1 | C11H12
solvent | heptane DCM | CCCCCCC.C(Cl)Cl
product | 1-Methyl-3-(5-phenyl-pent-1-ynyl)-5-trifluoromethyl-1H-pyrazole | CN1N=C(C=C1C(F)(F)F)C#CCCCC1=CC=CC=C1 | C16H15F3N2
